US05278186
To a mixture of 3-amino-6-chloro-7-methyl-4-(2-methylphenyl)-2H-1-benzopyran-2- one (300 mg), N,N-dimethylaniline (0.13 ml) and dichloromethane (4 ml) was dropwise added 2,4-difluorobenzoyl chloride (0.15 ml). The mixture was stirred for 20 hours at room temperature, washed with water and dried (MgSO4). By distilling off the solvent, 6-chloro-3-(2,4-difluorobenzoylamino)-7-methyl-4-(2-methylphenyl)-2H-1-benzopyran-2-one was obtained as crystals (406 mg, 92.5%). Recrystallization from ethanol gave colorless prisms.

reactant | 3-amino-6-chloro-7-methyl-4-(2-methylphenyl)-2H-1-benzopyran-2- one | 300 mg | NC=1C(OC2=C(C1C1=C(C=CC=C1)C)C=C(C(=C2)C)Cl)=O | C17H14ClNO2
reactant | N,N-dimethylaniline | 0.13 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2,4-difluorobenzoyl chloride | 0.15 ml | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 6-chloro-3-(2,4-difluorobenzoylamino)-7-methyl-4-(2-methylphenyl)-2H-1-benzopyran-2-one | ClC=1C(=CC2=C(C(=C(C(O2)=O)NC(C2=C(C=C(C=C2)F)F)=O)C2=C(C=CC=C2)C)C1)C | C24H16ClF2NO3
